US04122272
3-Methyl-5,6,7,8-tetrahydro-thiazolo[3,2-a][1,3]diazepine (1.68 g., 0.01 mole) (prepared by basification of the hydrochloride salt with sodium carbonate in acetonitrile solution) was dissolved in dry acetonitrile and refluxed for 36 hours with cetyl bromide (3.4 g., 0.011 mole). The solvent was evaporated and the residue washed with toluene and dried. Recrystallization from a mixture of acetonitrile and dry ether gave 9-cetyl-3-methyl-5,6,7,8-tetrahydro-thiazolo[3,2-a][1,3]diazepinium bromide (3.9 g., 81%) m.p. 120°-121°. (Found: C, 60.5; H, 9.5; N, 6.2. C24H45N2SBr requires C, 60.8; H, 9.5; N, 5.9%).

reactant | 3-Methyl-5,6,7,8-tetrahydro-thiazolo[3,2-a][1,3]diazepine | 0.01 mole, 1.68 g | CC1=CSC=2N1CCCCN2 | C8H12N2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | cetyl bromide | 0.011 mole, 3.4 g | C(CCCCCCCCCCCCCCC)Br | C16H33Br
solvent | acetonitrile | C(C)#N | C2H3N
product | 9-cetyl-3-methyl-5,6,7,8-tetrahydro-thiazolo[3,2-a][1,3]diazepinium bromide | 3.9 g, 81% | [Br-].C(CCCCCCCCCCCCCCC)N1C2=[N+](CCCC1)C(=CS2)C | InChI=1S/C24H45N2S.BrH/c1-3-4-5-6-7-8-9-10-11-12-13-14-15-16-19-25-20-17-18-21-26-23(2)22-27-24(25)26;/h22H,3-21H2,1-2H3;1H/q+1;/p-1
